data/core_train_final.csv
"CC1CCC([C:10](C)C)C1CC(C(OC)=O)C(OC)=O.[H:20][O:21]/C(OC)=C\C(OC)=O>>CC2CCC([C:10](C)([H:20])C)C2CC(C(OC)=O)C(OC)=O.[O:21]/C(OC)=C\C(OC)=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CN([CH2:10])C1=CC=CC=C1.[CH2:20]=[CH:21]C(OCCOCCOCC)=O>>O=C(OCCOCCOCC)[CH:21][CH2:20][CH2:10]N(C)C2=CC=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]([H:6])([H:7])[CH:3]1[CH2:4][CH2:5]1.[Cl:8]>>[H:1][C:2]([H:6])[CH:3]1[CH2:4][CH2:5]1.[H:7][Cl:8] 8-7,8;2,7-7,8;2,7-2",Room Temperature,Propagation,abstraction
"CCCCC/C=C\C=C\[CH:10]CCCCCCCC(=O)OC.[O:20][O]>>CCCCC/C=C\C=C\[CH:10](CCCCCCCC(=O)OC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][C:3]([H:5])([CH:2]=[CH2:1])[CH:6]=[CH2:7].[CH3:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH:16]=[CH:17][CH:18]=[CH:19][CH:20]([CH2:21][CH2:22][CH2:23][CH2:24][CH3:25])[O:26][O:27]>>[H:4][C:3]([CH:2]=[CH2:1])[CH:6]=[CH2:7].[H:5][O:27][O:26][CH:20]([CH2:21][CH2:22][CH2:23][CH2:24][CH3:25])[CH:19]=[CH:18][CH:17]=[CH:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH3:8] 27-27,5;5,3-27,5;5,3-3",Room Temperature,Propagation,abstraction
"[H:7][C:6]([H:8])([H:9])[CH:5]1[CH2:4][C:2]([CH2:10]1)([CH3:1])[CH3:3].[Cl:11]>>[H:7][C:6]([H:8])[CH:5]1[CH2:4][C:2]([CH2:10]1)([CH3:3])[CH3:1].[H:9][Cl:11] 11-11,9;9,6-9,11;9,6-6",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1CCC=C1.[Br:10]>>[H:20][Br:10].C1C[CH:21]C=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([H:5])([CH2:6][CH3:7])[C:2](=[O:1])[O:8][O:9][C:10](=[O:16])[C:11]([H:12])([H:13])[CH2:14][CH3:15].[Ar]>>[Ar].[H:4][C:3]([H:5])([CH2:6][CH3:7])[C:2](=[O:1])[O:8].[H:12][C:11]([H:13])([CH2:14][CH3:15])[C:10](=[O:16])[O:9] 8,9-8;8,9-9",Heat,Initiation,homolyze
"[H:20][C:21](C)(CC)CCC.[Br:10]>>[H:20][Br:10].CCC[C:21](C)CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)C[CH:10]C.C[CH:21]=[CH2:20]>>CCC(C)C[CH:10](C)[CH2:20][CH:21]C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:6][C:5]1([CH2:4][C:2]([CH2:8]1)([CH3:1])[CH3:3])[CH3:7].[Br:9]>>[H:6][Br:9].[CH3:7][C:5]1[CH2:4][C:2]([CH2:8]1)([CH3:1])[CH3:3] 9-9,6;6,5-9,6;5,6-5",Room Temperature,Propagation,abstraction
"CCCCCCC.[Cl:20][Cl:21].[He]>>[He].CCCCCCC.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:10][C:9](=[C:8]1[CH2:7][CH2:6][CH2:5][CH2:4][C:2]1([H:1])[H:3])[H:11].[Br:12]>>[H:1][C:2]1=[C:8]([CH2:7][CH2:6][CH2:5][CH2:4]1)[C:9]([H:10])[H:11].[H:3][Br:12] 12-3,12;2,3-3,12;2,3-2,8;8,9-2,8;8,9-9",Room Temperature,Propagation,abstraction
"[H:1][Br:2].[CH3:5][CH:4][Br:3]>>[H:1][CH:4]([CH3:5])[Br:3].[Br:2] 4-4,1;1,2-4,1;2,1-2",Room Temperature,Propagation,abstraction
"CCCCCCC[CH:21]=[CH2:20].CC1=CC=C(C=C1)S(=O)(=O)[N:10]CC=C>>CCCCCCC[CH:21][CH2:20][N:10](CC=C)S(=O)(=O)C1=CC=C(C=C1)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21](C)(C)C.[Cl:10].[He]>>[He].[H:20][Cl:10].C[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Light,Propagation,abstraction
"[H:9][C:8]1=[CH:7][C:5]([CH:4]=[C:3]2[C:10]1=[CH:11][C:12]3=[C:13]([C:2]2=[O:1])[CH:14]=[CH:15][CH:16]=[CH:17]3)[H:6]>>[H:6][C:5]1=[CH:7][C:8]([C:10]2=[CH:11][C:12]3=[C:13]([CH:14]=[CH:15][CH:16]=[CH:17]3)[C:2](=[O:1])[C:3]2=[CH:4]1)[H:9] 5-5,7; 7,8-5,7; 7,8-8",Room Temperature,Propagation,resonance
"CC(C)C1CCCCC1.[Br:20][Br:21].[He]>>[He].CC(C)C1CCCCC1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"C1CC(C[CH:10]1)Cl.[Cl:20][Cl:21]>>C1CC(C[CH:10]1[Cl:20])Cl.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:11][O:10][O:9].[CH:6]1=[CH:5][CH:4]=[C:3]([CH:8]=[CH:7]1)[C:2]=[O:1]>>[H:11][O:10][O:9][C:2](=[O:1])[C:3]1=[CH:4][CH:5]=[CH:6][CH:7]=[CH:8]1 9-9,2; 2-9,2",Room Temperature,Termination,recombine
"[CH:10]1C(C(C(C(C1Cl)Cl)Cl)Cl)Cl.[Cl:20][Cl:21]>>C1(C([CH:10](C(C(C1Cl)Cl)Cl)[Cl:20])Cl)Cl.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C/C(=C\CCC(C)([CH:21]=[CH2:20])OC(=O)C)/C(=O)OC.C1=CC=C(C=C1)CC[S:10]>>C/C(=C\CCC(C)([CH:21][CH2:20][S:10]CCC1=CC=CC=C1)OC(=O)C)/C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:8][C:7]([H:9])([H:10])[C:2]([CH3:1])([CH3:11])[CH2:3][CH2:4][CH2:5][CH3:6].[Cl:12]>>[H:8][C:7]([H:9])[C:2]([CH3:1])([CH3:11])[CH2:3][CH2:4][CH2:5][CH3:6].[H:10][Cl:12] 12-12,10;10,7-12,10;7,10-7",Room Temperature,Propagation,abstraction
"[CH2:10]C1=CC=CC=C1.[Cl:20]>>C1=CC=C(C=C1)[CH2:10][Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C)[CH2:10].[Cl:20][Cl:21]>>CCCC(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
